US04287195
A mixture of 17.3 parts of N-(2,2-dimethoxyethyl)-N'-[4-(4-methoxyphenyl)-1-piperazinyl]thiourea, 17 parts of iodoethane, 180 parts of ethyl acetate and 20 parts of acetic acid is stirred for 3 hours. Upon the addition of 2,2'-oxybispropane, the product is precipitated. It is filtered off and triturated in 4-methyl-2-pentanone. The product is filtered off and crystallized from 2-propanol, yielding 9 parts of ethyl N-(2,2-dimethoxyethyl)-N'-[4-(4-methoxyphenyl)-1-piperazinyl]carbamimidothioate monohydroiodide.

reactant | N-(2,2-dimethoxyethyl)-N'-[4-(4-methoxyphenyl)-1-piperazinyl]thiourea | COC(CNC(=S)NN1CCN(CC1)C1=CC=C(C=C1)OC)OC | C16H26N4O3S
reactant | iodoethane | ICC | C2H5I
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | 2,2'-oxybispropane | O(C(C)C)C(C)C | C6H14O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | ethyl N-(2,2-dimethoxyethyl)-N'-[4-(4-methoxyphenyl)-1-piperazinyl]carbamimidothioate monohydroiodide | I.COC(CNC(=NN1CCN(CC1)C1=CC=C(C=C1)OC)SCC)OC | InChI=1S/C18H30N4O3S.HI/c1-5-26-18(19-14-17(24-3)25-4)20-22-12-10-21(11-13-22)15-6-8-16(23-2)9-7-15;/h6-9,17H,5,10-14H2,1-4H3,(H,19,20);1H
